US05958942
To a solution of 1.57 g (6.0 mmol) of 1-(3,3-dimethyl-5-hydroxypentyl)phthalimide and 0.92 ml (6.6 mmol) of triethylamine in 30 ml of dichloromethane was added, at 0C, 0.51 ml (6.6 mmol) of methanesulfonyl chloride. The mixture was stirred for 30 minutes at room temperature, to which was added a saturated aqueous solution of sodium hydrogencarbonate. The mixture was extracted with dichloromethane. The extract was dried, followed by distilling off the solvent to give 1-(3,3-dimethyl-5-methanesulfonyloxypentyl)phthalimide.

reactant | 1-(3,3-dimethyl-5-hydroxypentyl)phthalimide | 6.0 mmol, 1.57 g | CC(CCC12C(=O)NC(C1C=CC=C2)=O)(CCO)C | C15H21NO3
reactant | triethylamine | 6.6 mmol, 0.92 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.6 mmol, 0.51 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(3,3-dimethyl-5-methanesulfonyloxypentyl)phthalimide | CC(CCC12C(=O)NC(C1C=CC=C2)=O)(CCOS(=O)(=O)C)C | C16H23NO5S
